US05057505
1.97 g (4.9 mmol) of 1-(5-methylthiazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester are heated under reflux in 20 ml of N hydrochloric acid for 6 hours. Upon cooling and leaving the reaction mixture to stand at room temperature, the product crystallises. It is filtered and washed with acetone and petroleum ether. Yield: 0.64 g (45% of the theoretical yield) of 1-(5-methylthiazol-2-ylamino)-methane-1,1-diphosphonic acid of m.p. 208° (decomposition).

reactant | 1-(5-methylthiazol-2-ylamino)methane-1,1-diphosphonic acid tetraethyl ester | 4.9 mmol, 1.97 g | C(C)OP(OCC)(=O)C(P(OCC)(=O)OCC)NC=1SC(=CN1)C | C13H26N2O6P2S
reactant | hydrochloric acid | Cl | ClH
product | 1-(5-methylthiazol-2-ylamino)-methane-1,1-diphosphonic acid | CC1=CN=C(S1)NC(P(O)(=O)O)P(O)(=O)O | C5H10N2O6P2S
